* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 0 n9 n7 QPNPdefault
D1 n10 n5 Ddefault
Q2 n11 n7 n4 QPNPdefault
Q3 n12 n8 n6 QPNPdefault
Q4 n10 n12 0 QNPNdefault
Q5 n11 n14 0 QNPNdefault
V1 n1 0 DC 15
R1 n6 n5 1k
Q6 n5 n13 0 QNPNdefault
Q7 n13 n10 n5 QPNPdefault
D2 n5 n3 Ddefault
R2 n4 n6 1k
Q8 n1 n3 n5 QNPNdefault
Q9 n12 n14 0 QNPNdefault
V2 n5 0 DC 15
V3 n6 0 DC 15
R3 n2 n4 1k
V4 n2 0 DC 15
R4 n1 n2 1k
R5 n8 0 1k
V5 n9 0 DC 15
R6 n9 0 1k
V6 n8 0 DC 15
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
