* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 n11 n8 n4 QPNPdefault
D1 n7 n3 Ddefault
Q2 0 n13 n8 QPNPdefault
Q3 n14 n10 n5 QPNPdefault
D2 n10 n7 Ddefault
R1 n4 n6 1k
Q4 n5 n14 0 QNPNdefault
Q5 n1 n3 n5 QNPNdefault
R2 n6 n5 1k
R3 n9 0 1k
Q6 n12 n9 n6 QPNPdefault
Q7 n12 n15 0 QNPNdefault
Q8 n10 n12 0 QNPNdefault
V1 n6 0 DC 15
V2 n1 0 DC 15
V3 n2 0 DC 15
Q9 n11 n15 0 QNPNdefault
R4 n2 n4 1k
V4 n13 0 DC 15
V5 n5 0 DC 15
R5 n1 n2 1k
R6 n13 0 1k
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
