* Auto-generated SPICE netlist (NO TEXT OCR USED)

E1 n15 0 n17 n16 100k
E2 n2 0 n6 n1 100k
E3 n4 0 n3 n7 100k
E4 n7 0 n13 n12 100k
E5 n11 0 n9 0 100k
V1 n1 n8 DC 15
I1 n14 n12 DC 1m
R1 n15 n5 1k
C1 n9 n10 1u
R2 n7 n3 1k
C2 n7 n16 1u
R3 n11 n5 1k
R4 n16 n15 1k
R5 n7 n9 1k
C3 n2 n1 1u
L1 n12 n7 1m
R6 n4 n5 1k
L2 n3 n4 1m

.op
.end
