* Auto-generated SPICE netlist (NO TEXT OCR USED)

E1 n2 0 0 n5 100k
E2 n16 0 n18 n17 100k
E3 n1 0 n7 n1 100k
E4 n10 0 n15 n12 100k
E5 n3 0 n8 n4 100k
E6 n9 0 n13 n11 100k
R1 n2 n6 1k
L1 n17 n16 1m
R2 n10 n8 1k
R3 n3 n5 1k
R4 n3 n11 1k
R5 n16 n6 1k
R6 n1 n4 1k
C1 n3 n17 1u
L2 n5 n2 1m
R7 n9 n6 1k
L3 n4 n3 1m
C2 n11 n9 1u
L4 n12 n10 1m
V1 n1 0 DC 15
R8 n8 n14 1k
V2 n12 0 DC 15

.op
.end
