* Auto-generated SPICE netlist (NO TEXT OCR USED)

E1 n3 0 n4 n2 100k
V1 n6 n8 DC 15 AC 1
D1 n7 0 Zdefault
D2 n8 n1 Ddefault
D3 n10 n4 Zdefault
D4 0 n8 Ddefault
Q1 n2 n7 n11 QPNPdefault
D5 0 n6 Ddefault
D6 n6 n1 Ddefault
Q2 n1 n3 n5 QNPNdefault
C1 n1 n9 1u
L1 n5 n10 1m
R1 n1 n7 1k
C2 n11 0 1u
L2 n9 0 1m
R2 n10 0 1k
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP
.model Zdefault D(bv=5.1)

.op
.end
